Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin
 
Attending: ___.
 
Chief Complaint:
___ abd pain
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
___ yo male patient of Dr. ___ presenting with abdominal 
pain.

Patient states pain began last night approximately two hours 
after dinner. No unusual foods. Described as RUQ, dull, 
non-radiating. Worse with attempted defecation, has been 
constipated since yesterday morning. Took ibuprofen 600 x 1 with 
some relief, able to sleep for an hour. Otherwise was in pain 
until arrival in ED and pain med administration there. Denies 
f/c/sweats/weight loss. Denies nausea/vomiting/diarrhea. No 
cp/sob. No dysuria, hematuria. No sick contacts. Yesterday 
morning did drive up from ___ but otherwise no recent 
foreign travel.

Patient reports a separate history of chronic intermittent RUQ 
abdominal pain for over ___ years with extensive work-up including 
colonoscopy looking for crohn's that was negative. However, he 
states the current pain was different and prompted his arrival 
to the ED.

In the ED, initial vitals:  97.3 75 177/105 17 100% on RA. 
- Exam notable for: no significant RUQ TTP. 
- Labs notable for: chem7 notable for glucose 115 otherwise 
normal, CBC normal, LFT's and lipase normal, lactate 1.9. 
- Imaging notable for: CT A/P showing peripheral wedge-shaped 
hypodensities in the upper pole of the right kidney suspicious 
for renal infarction. A focal infection is possible but less 
likely. Abdominal US was normal.  
- Pt given: morphine sulfate 5mg IV, 1L NS, and dilaudid. 
- Vitals prior to transfer:  98.1 66 140/98 18 99% on RA. 

On arrival to the floor, pt reports relief of pain. History per 
above.
 
Past Medical History:
MEDICAL HISTORY (per OMR, patient reports no significant history 
and no history of blood clots or arrhythmia):  
ATYPICAL CHEST PAIN 
BREAST LUMP 
ELEVATED GLUCOSE 
HEMORRHOIDS 
INSOMNIA 
PLEURITIC CHEST PAIN 
RESTLESS LEGS 
SCROTAL DISCOMFORT 
SHOULDER PAIN 
BACK PAIN 
NECK PAIN 
 
Social History:
___
Family History:
Mother with multiple strokes.
 
Physical Exam:
ADMISSION PHYSICAL EXAM  
===========================
Vitals: 98.3 146/110 67 18 97 RA
General: NAD
HEENT: NCAT, PERRL, MMM
Neck: Supple, no LAD, no JVD
Lungs: CTAB
CV: RRR
Abdomen: Soft, NT, ND, no HSM, no ___ sign, no CVAT
GU: deferred
Ext: No edema, no calf tenderness
Neuro: AAOx3, moving all extremities

DISCHARGE PHYSICAL EXAM:
=========================
Vitals: 98.8 123/78 84 16 95% on RA
General: NAD
HEENT: NCAT, PERRL, MMM
Neck: Supple, no LAD, no JVD
Lungs: CTAB
CV: RRR
Abdomen: Soft, NT, ND, no HSM, no ___ sign, no CVAT
GU: deferred
Ext: No edema, no calf tenderness
Neuro: AAOx3, moving all extremities 
 
Pertinent Results:
LABS ON ADMISSION:
===================
___ 09:00PM   LD(LDH)-254*
___ 09:00PM   CHOLEST-250*
___ 09:00PM   TRIGLYCER-101 HDL CHOL-63 CHOL/HDL-4.0 
LDL(CALC)-167*
___ 09:00PM   ___ PTT-27.4 ___
___ 09:00PM   V-112
___ 06:40PM URINE  HOURS-RANDOM
___ 06:40PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:27PM   LACTATE-1.9
___ 06:40PM URINE  RBC-4* WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 12:10PM   GLUCOSE-115* UREA N-10 CREAT-0.9 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-97 TOTAL CO2-24 ANION GAP-21*
___ 12:10PM   ALT(SGPT)-31 AST(SGOT)-32 ALK PHOS-79 TOT 
BILI-0.8
___ 12:10PM   LIPASE-34
___ 12:10PM   ALBUMIN-5.2
___ 12:10PM   WBC-9.1 RBC-5.61 HGB-15.5 HCT-47.1 MCV-84 
MCH-27.6 MCHC-32.9 RDW-13.9 RDWSD-42.2
___ 12:10PM   NEUTS-82.2* LYMPHS-12.4* MONOS-4.6* EOS-0.2* 
BASOS-0.3 IM ___ AbsNeut-7.44* AbsLymp-1.12* AbsMono-0.42 
AbsEos-0.02* AbsBaso-0.03
___ 12:10PM   PLT COUNT-254

LABS ON DISCHARGE:
====================
___ 09:15AM BLOOD WBC-10.7* RBC-5.50 Hgb-15.6 Hct-45.8 
MCV-83 MCH-28.4 MCHC-34.1 RDW-14.1 RDWSD-42.4 Plt ___
___ 09:15AM BLOOD Glucose-102* UreaN-14 Creat-1.0 Na-137 
K-3.9 Cl-97 HCO3-26 AnGap-18
___ 09:15AM BLOOD Calcium-10.2 Phos-3.9 Mg-2.1
___ 09:00PM BLOOD Triglyc-101 HDL-63 CHOL/HD-4.0 
LDLcalc-167*

IMAGING:
===========
TTE ___:
The left atrial volume index is normal. No atrial septal defect 
or patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). There is no left 
ventricular outflow obstruction at rest or with Valsalva. There 
is no ventricular septal defect. Right ventricular chamber size 
and free wall motion are normal. The ascending aorta is mildly 
dilated. The aortic arch is mildly dilated. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

IMPRESSION: Symmetric LVH with normal global and regional 
biventricular systolic function. No ASD or PFO.  

CT A/P ___:
Peripheral wedge-shaped hypodensities in the upper pole of the 
right kidney are suspicious for renal infarction. A focal 
infection is possible but less likely, correlation with 
urinalysis is recommended. 

 
Brief Hospital Course:
Mr. ___ is a ___ with no significant PMHx p/w RUQ abdominal 
pain. CT A/P was remarkable for wedge-shaped hypodensity 
concerning for renal infarct. Exact etiology is unclear. Pt was 
kept on telemetry which did not show any AF. TTE remarkable for 
global LVH but no evidence of thrombus, PFO, or ASD. Pt was 
started on lisinopril 5mg, simvastatin 20mg, and ASA 81mg given 
risk of atherosclerotic disease. Hypercoagulability workup was 
also initiated (lupus panel, protein A/C/S, ATIII, and factor V 
laden) and pending at time of discharge; however, they should be 
interpreted with caution since they may not be accurate in the 
setting of acute clot. Pt was discharged on holter monitor for 
48 hours to assess for AF. 

# Renal infarct: based on characteristics seen on CT, most 
likely renal infarct. Exact etiology unclear but DDx include 
thromboembolic event (heart, aorta), atherosclerosis, and 
hypercoagulable state. Telemetry with no e/o AF and TTE was only 
remarkable for global LVH. UA with no e/o infection. Pt was 
hypertensive upon admission and ACEI was added. Based on his 
outpatient records, he's always been normotensive overall. We 
will continue lisinopril for its renal protective properties. 
His lipid profile showed elevated LDL (160's).  Patient was 
started on simvastatin 20mg and ASA 81mg given risk of 
atherosclerotic disease. Hypercoagulable w/u is pending at time 
of discharge should be interpreted with caution since they may 
not be accurate in the setting of acute clot. Pt was discharged 
on holter for rhythm assessment. Pt was not started on 
anti-coagulation since no AF was seen and hypercoagulable w/u is 
pending. We will defer this decision to PCP pending further 
information.   

TRANSITIONAL ISSUES:
[] pt was started on lisinopril, please check chem7 in 2 weeks 
[] pt was started on ASA 81mg 
[] pt was started on simvastatin 20mg
[] please f/u hypercoagulability w/u but interpret with caution 
given that they were checked in setting of acute clot
[] f/u holter monitor results 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin [Aspir-81] 81 mg one tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
2. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg one tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Simvastatin 20 mg PO QPM 
RX *simvastatin 20 mg one tablet(s) by mouth qpm Disp #*30 
Tablet Refills:*0
4. Multivitamins 1 TAB PO DAILY 
5. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg one tablet(s) by mouth q6hr-prn Disp #*12 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
renal infarct
hypertension 
hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___. You 
presented to us with right sided abdominal pain. You were found 
to have infarction (dead tissue) of your right kidney. As we 
explained to you, this is due to lack of blood supply to your 
kidney. We performed an echocardiogram of your heart and it was 
normal. We have started you on three new medications. Please 
follow up with your primary care physician for further 
management. 

Please take your medications as instructed. You are being 
discharged on a holter monitor for 48 hours to rule out any 
irregular, abnormal heart beats. 

Best,
Your ___ team 
 
Followup Instructions:
___